US06355636B1
4-(3-Bromo-phenylamino)-6-(3-morpholin-4-yl-propoxy)-[1.5]naphthyridine-3-carbonitrile
A mixture of 4-chloro-6-(3-morpholin-4-yl-propoxy)-[1.5]naphthyridine-3-carbonitrile (700 mg, 2.10 mmol), 3-bromoaniline (0.458 ml, 4.2 mmol) and pyridine HCl salt (534 mg, 2.2 mmol) in ethoxyethanol (30 ml) was heated at reflux for 6 hrs under argon. After cooling, the solvent was removed by rotary evaporation. The residue was treated with ice water, made basic with NH4OH, and extracted with ethyl acetate. The combined extracts were washed (sat brine), dried (Na2SO4), and concentrated. The oily residue was dissolved in CH2Cl2, and ether and n-hexane were added to form a solid. The title compound, as a yellow solid, was collected and dried. mass spectrum (electrospray, m/e): 469.9 (M+H); IR cm-1: 2224, 1668, 1628; H-NMR δ(DMSO-d6): 1.88 (2H, m), 2.26-2.29 (6H, m), 2.51 (2H, m), 3.49 (2H,m), 4.34 (2H, m), 7.110-7.311 (3H, m), 7.835 (1H, d, C7-H), 8.240 (1H, d, C8-H), 8.556 (1H, s), 8.721 (1H, s, C2-H), 9.850 (1H, s, NH).

reactant | 4-chloro-6-(3-morpholin-4-yl-propoxy)-[1.5]naphthyridine-3-carbonitrile | 2.10 mmol, 700 mg | ClC1=C(C=NC2=CC=C(N=C12)OCCCN1CCOCC1)C#N | C16H17ClN4O2
reactant | 3-bromoaniline | 4.2 mmol, 0.458 ml | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | pyridine HCl salt | 2.2 mmol, 534 mg | Cl.N1=CC=CC=C1
solvent | ethoxyethanol | 30 ml | C(C)OC(C)O | C4H10O2
product | 4-(3-Bromo-phenylamino)-6-(3-morpholin-4-yl-propoxy)-[1.5]naphthyridine-3-carbonitrile | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(N=C12)OCCCN1CCOCC1)C#N | C22H22BrN5O2
